US04204073
42 g of 5-[3-oxo-4-phenoxyacetyl-2,5,5-trimethyl-cyclopent-1-en-1-yl]-3-methyl-pent-2-en-4-yn-1-al are dissolved in 420 ml of ethanol. The solution is treated at -40° C. with 1.16 g of sodium borohydride and stirred for 10 minutes. The mixture is then introduced into water and extracted with ether. The 5-[3-oxo-4-phenoxyacetyl-2,5,5-trimethyl-cyclopent-1-en-1-yl]-3-methyl-pent-2-en-4-yn-1-ol is obtained as a viscous oil.

reactant | 5-[3-oxo-4-phenoxyacetyl-2,5,5-trimethyl-cyclopent-1-en-1-yl]-3-methyl-pent-2-en-4-yn-1-al | 42 g | O=C1C(=C(C(C1C(COC1=CC=CC=C1)=O)(C)C)C#CC(=CC=O)C)C | C22H22O4
reactant | sodium borohydride | 1.16 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 420 ml | C(C)O | C2H6O
product | 5-[3-oxo-4-phenoxyacetyl-2,5,5-trimethyl-cyclopent-1-en-1-yl]-3-methyl-pent-2-en-4-yn-1-ol | O=C1C(=C(C(C1C(COC1=CC=CC=C1)=O)(C)C)C#CC(=CCO)C)C | C22H24O4
